*  Sonnet Data File
*  From: emgraph Version : 16.56
*  From Project: Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness
*  Data is De-embedded 
*  Data File Written: 03/24/2020 17:01:58
* < HDATE 03/06/2020 17:23:53
* < MDATE 03/06/2020 17:24:47
* < PARAMS
* < ILD_thickness = 0.5
* < ILD_dielectric_const = 4.0
* < END PARAMS
*  Spice Data
* Limits: C>0.01pF L<100.0nH R<1000.0Ohms K>0.01
    *  Analysis frequencies: 100.0, 110.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param50_0 1 2 3 4 REF
C_C1 1 REF 0.6040913697038pf
C_C2 1 2 13.584135786889pf
C_C3 1 3 0.0174060838718pf
C_C4 1 4 0.1874714069027pf
C_C5 2 REF 1.6717772887972pf
C_C6 2 3 0.1004435265869pf
C_C7 3 REF 0.3586320066885pf
C_C8 3 4 7.1859269130192pf
C_C9 4 REF 0.3644903615204pf
L_L1 3 5 1.3103637907972nh
R_RL1 5 4 -1.195193636e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param50_0

    *  Analysis frequencies: 110.0, 120.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param50_1 1 2 3 4 REF
C_C1 1 REF 0.4587589892382pf
C_C2 1 2 13.844730205171pf
C_C3 1 3 0.0169236666306pf
C_C4 1 4 0.1886950693016pf
C_C5 2 REF 1.3295568811296pf
C_C6 2 3 0.1002374842988pf
C_C7 3 REF 0.3593342377756pf
C_C8 3 4 5.3231690631771pf
C_C9 4 REF 0.3631275832296pf
R_R1 1 2 864.50059684187
L_L1 3 5 1.3118934386364nh
R_RL1 5 4 4.0437410689e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param50_1

    *  Analysis frequencies: 120.0, 130.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param50_2 1 2 3 4 REF
C_C1 1 REF 0.3683928977259pf
C_C2 1 2 14.105724926275pf
C_C3 1 3 0.0163867902754pf
C_C4 1 4 0.1906477696416pf
C_C5 2 REF 1.08481260461pf
C_C6 2 3 0.100229726812pf
C_C7 3 REF 0.3598935619151pf
C_C8 3 4 4.023599305039pf
C_C9 4 REF 0.3618585983959pf
R_R1 1 2 860.30294495598
L_L1 3 5 1.3131661132665nh
R_RL1 5 4 2.4936172508e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param50_2

    *  Analysis frequencies: 130.0, 145.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param50_3 1 2 3 4 REF
C_C1 1 REF 0.3033023997482pf
C_C2 1 2 14.452996083732pf
C_C3 1 3 0.0156215703908pf
C_C4 1 4 0.1939912369994pf
C_C5 2 REF 0.873700146311pf
C_C6 2 3 0.1004765075229pf
C_C7 3 REF 0.3604321043867pf
C_C8 3 4 2.9065675145439pf
C_C9 4 REF 0.3604637244824pf
R_R1 1 2 891.65128720887
L_L1 3 5 1.3144527429819nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param50_3

    *  Analysis frequencies: 145.0, 160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param50_4 1 2 3 4 REF
C_C1 1 REF 0.2640190029799pf
C_C2 1 2 14.907797764148pf
C_C3 1 3 0.0145647746388pf
C_C4 1 4 0.199001569195pf
C_C5 2 REF 0.7079842914218pf
C_C6 2 3 0.1010764914244pf
C_C7 3 REF 0.3609153068831pf
C_C8 3 4 2.0125737876401pf
C_C9 4 REF 0.3590964016858pf
R_R1 1 2 976.23888648313
L_L1 3 5 1.3157358697846nh
R_RL1 5 4 -1.187435714e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param50_4

    *  Analysis frequencies: 160.0, 175.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param50_5 1 2 3 4 REF
C_C1 1 REF 0.2485461667316pf
C_C2 1 2 15.417768861691pf
C_C3 1 3 0.0133210424364pf
C_C4 1 4 0.2050097458284pf
C_C5 2 REF 0.6034439180868pf
C_C6 2 3 0.1019787757521pf
C_C7 3 REF 0.3612859420387pf
C_C8 3 4 1.4220142119452pf
C_C9 4 REF 0.3580459929037pf
L_L1 3 5 1.316769842608nh
R_RL1 5 4 -2.872380099e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param50_5

    *  Analysis frequencies: 175.0, 190.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param50_6 1 2 3 4 REF
C_C1 1 REF 0.2454414893607pf
C_C2 1 2 15.98820685655pf
C_C3 1 3 0.0118688969565pf
C_C4 1 4 0.2119097900121pf
C_C5 2 REF 0.5368126539746pf
C_C6 2 3 0.1031548567702pf
C_C7 3 REF 0.3615938616613pf
C_C8 3 4 1.0182209068124pf
C_C9 4 REF 0.3572772756217pf
L_L1 3 5 1.3176168034183nh
R_RL1 5 4 -4.306430947e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param50_6

    *  Analysis frequencies: 190.0, 210.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param50_7 1 2 3 4 REF
C_C1 1 REF 0.2495012792032pf
C_C2 1 2 16.739887100214pf
C_C3 1 4 0.2210722024492pf
C_C4 2 REF 0.4893438036364pf
C_C5 2 3 0.1048729704894pf
C_C6 3 REF 0.3619122007874pf
C_C7 3 4 0.6966681029889pf
C_C8 4 REF 0.3566834594175pf
L_L1 3 5 1.318412801611nh
R_RL1 5 4 -5.647009623e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param50_7

    *  Analysis frequencies: 210.0, 230.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param50_8 1 2 3 4 REF
C_C1 1 REF 0.2577981459588pf
C_C2 1 2 17.705182432472pf
C_C3 1 4 0.2328013762457pf
C_C4 2 REF 0.4592560175428pf
C_C5 2 3 0.1072590760124pf
C_C6 3 REF 0.3622414783196pf
C_C7 3 4 0.4496129087878pf
C_C8 4 REF 0.3563084782049pf
L_L1 3 5 1.319160747631nh
R_RL1 5 4 -6.81542782e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param50_8

    *  Analysis frequencies: 230.0, 255.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param50_9 1 2 3 4 REF
C_C1 1 REF 0.2673724289918pf
C_C2 1 2 18.953502332437pf
C_C3 1 4 0.2478086188003pf
C_C4 2 REF 0.445248716258pf
C_C5 2 3 0.1105742900061pf
C_C6 3 REF 0.3625668638978pf
C_C7 3 4 0.2679887537964pf
C_C8 4 REF 0.3561702146779pf
L_L1 3 5 1.3198209766386nh
R_RL1 5 4 -7.6351726e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param50_9

    *  Analysis frequencies: 255.0, 280.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param50_10 1 2 3 4 REF
C_C1 1 REF 0.2749444629975pf
C_C2 1 2 20.548330511503pf
C_C3 1 4 0.266692252627pf
C_C4 2 REF 0.4450559055115pf
C_C5 2 3 0.1150921066542pf
C_C6 3 REF 0.3628489116194pf
C_C7 3 4 0.1368320916751pf
C_C8 4 REF 0.3562300311565pf
L_L1 1 5 91.114391360233nh
R_RL1 5 2 12.918524497959
L_L2 3 6 1.3204015525219nh
R_RL2 6 4 -8.017201303e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param50_10

    *  Analysis frequencies: 280.0, 310.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param50_11 1 2 3 4 REF
C_C1 1 REF 0.2771264114575pf
C_C2 1 2 22.627886154483pf
C_C3 1 4 0.290846315741pf
C_C4 2 REF 0.4581220928692pf
C_C5 2 3 0.1213618457623pf
C_C6 3 REF 0.3630299697964pf
C_C7 3 4 0.0448923867078pf
C_C8 4 REF 0.3564384929126pf
L_L1 1 5 57.491870884248nh
R_RL1 5 2 6.9105973367421
L_L2 3 6 1.3208560320253nh
R_RL2 6 4 -7.831105142e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param50_11

    *  Analysis frequencies: 310.0, 340.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param50_12 1 2 3 4 REF
C_C1 1 REF 0.2708105266661pf
C_C2 1 2 25.360595113229pf
C_C3 1 4 0.3219421636925pf
C_C4 2 REF 0.4838883812852pf
C_C5 2 3 0.1300549392478pf
C_C6 3 REF 0.3630563721384pf
C_C7 4 REF 0.3567349975414pf
L_L1 1 5 36.147327451497nh
R_RL1 5 2 3.5415737902997
L_L2 3 6 1.3210560896057nh
R_RL2 6 4 -7.038587631e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param50_12

    *  Analysis frequencies: 340.0, 375.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param50_13 1 2 3 4 REF
C_C1 1 REF 0.2522014122371pf
C_C2 1 2 29.109118481527pf
C_C3 1 4 0.3637158279826pf
C_C4 2 REF 0.5237722215363pf
C_C5 2 3 0.1425291709971pf
C_C6 3 REF 0.3628809512555pf
C_C7 4 REF 0.3570878721589pf
L_L1 1 5 22.451404910722nh
R_RL1 5 2 1.9509211400518
L_L2 3 6 1.3208217402697nh
R_RL2 6 4 -5.640778363e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param50_13

    *  Analysis frequencies: 375.0, 410.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param50_14 1 2 3 4 REF
C_C1 1 REF 0.217306597209pf
C_C2 1 2 34.433876412717pf
C_C3 1 4 0.4220119833843pf
C_C4 2 REF 0.5799201931535pf
C_C5 2 3 0.1608281063756pf
C_C6 3 REF 0.362486810415pf
C_C7 4 REF 0.3574980936799pf
L_L1 1 5 13.579794454654nh
R_RL1 5 2 1.5291310849616
L_L2 3 6 1.3204316314632nh
R_RL2 6 4 -3.712936723e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param50_14

    *  Analysis frequencies: 410.0, 450.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param50_15 1 2 3 4 REF
C_C1 1 REF 0.1580225292599pf
C_C2 1 2 42.605042627638pf
C_C3 1 4 0.5102731920637pf
C_C4 2 REF 0.6592734789714pf
C_C5 2 3 0.1895011757757pf
C_C6 3 REF 0.3618555644511pf
C_C7 4 REF 0.3580318224479pf
R_R1 1 2 -807.4030278921
L_L1 1 5 8.1404734511758nh
R_RL1 5 2 3.434078799517
L_L2 3 6 1.3197661953517nh
R_RL2 6 4 -1.295472612e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param50_15

    *  Analysis frequencies: 450.0, 495.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param50_16 1 2 3 4 REF
C_C1 1 REF 0.0496122666935pf
C_C2 1 2 57.410061653134pf
C_C3 1 4 0.6688972292624pf
C_C4 2 REF 0.7866755799995pf
C_C5 2 3 0.2420049847687pf
C_C6 3 REF 0.360896158735pf
C_C7 4 REF 0.3589365021765pf
R_R1 1 2 -568.5646071175
L_L1 1 5 4.4147924846529nh
R_RL1 5 2 -0.427436400487
L_L2 3 6 1.3185564035582nh
R_RL2 6 4 1.0953252968e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param50_16

    *  Analysis frequencies: 495.0, 545.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param50_17 1 2 3 4 REF
C_C1 1 2 89.549057772128pf
C_C2 1 4 1.0121048055884pf
C_C3 2 REF 1.0313938396899pf
C_C4 2 3 0.3563244539002pf
C_C5 3 REF 0.3593902854609pf
C_C6 4 REF 0.3609579570635pf
R_R1 1 2 -353.4252587139
L_L1 1 5 1.790981425049nh
R_RL1 5 2 0.0585217359765
L_L2 1 6 76.752556534794nh
R_RL2 6 3 0.0147453762759
L_L3 1 7 75.99200906561nh
R_RL3 7 4 0.0150340844136
L_L4 2 8 76.819079677973nh
R_RL4 8 3 0.0063164074726
L_L5 2 9 76.061198978743nh
R_RL5 9 4 0.0061336954041
L_L6 3 10 1.3159807767118nh
R_RL6 10 4 3.6602251589e-5
Kn_K1 L_L1 L_L2 0.0735412031562
Kn_K2 L_L1 L_L3 0.0737940018501
Kn_K3 L_L1 L_L4 -0.079180785194
Kn_K4 L_L1 L_L5 -0.079688532358
Kn_K5 L_L2 L_L3 0.9913967244162
Kn_K6 L_L2 L_L4 0.9883379038655
Kn_K7 L_L2 L_L5 0.979660882964
Kn_K8 L_L2 L_L6 -0.103308641232
Kn_K9 L_L3 L_L4 0.979699754317
Kn_K10 L_L3 L_L5 0.9882214529276
Kn_K11 L_L3 L_L6 0.0277711067504
Kn_K12 L_L4 L_L5 0.9914042649244
Kn_K13 L_L4 L_L6 -0.103131284273
Kn_K14 L_L5 L_L6 0.0278917478855
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param50_17

    *  Analysis frequencies: 545.0, 600.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param50_18 1 2 3 4 REF
C_C1 1 2 188.91093022035pf
C_C2 1 4 2.0731097491004pf
C_C3 2 REF 1.7272905680047pf
C_C4 2 3 0.7093219205052pf
C_C5 3 REF 0.356196769313pf
C_C6 4 REF 0.3676806565072pf
R_R1 1 2 -216.5875232088
L_L1 1 5 79.131833589161nh
R_RL1 5 REF -0.991438818364
L_L2 1 6 0.5772579928243nh
R_RL2 6 2 0.0143339389548
L_L3 1 7 28.52562162553nh
R_RL3 7 3 0.0100798426561
L_L4 1 8 27.821481858419nh
R_RL4 8 4 0.0101825108618
L_L5 2 9 78.596253973237nh
R_RL5 9 REF -1.079081237732
L_L6 2 10 28.609170949649nh
R_RL6 10 3 0.0016121457178
L_L7 2 11 27.908769090273nh
R_RL7 11 4 0.0015096447587
L_L8 3 12 1.3081511349106nh
R_RL8 12 4 5.3955398695e-5
Kn_K1 L_L1 L_L2 0.0823267946505
Kn_K2 L_L1 L_L5 0.9963459139212
Kn_K3 L_L2 L_L3 0.0608328580546
Kn_K4 L_L2 L_L4 0.0611315013686
Kn_K5 L_L2 L_L5 1.0
Kn_K6 L_L2 L_L6 -0.081303124063
Kn_K7 L_L2 L_L7 -0.082782631412
Kn_K8 L_L3 L_L4 0.9768603342057
Kn_K9 L_L3 L_L5 1.0
Kn_K10 L_L3 L_L6 0.9898976176161
Kn_K11 L_L3 L_L7 0.9665826398025
Kn_K12 L_L3 L_L8 -0.164707831039
Kn_K13 L_L4 L_L5 1.0
Kn_K14 L_L4 L_L6 0.9667493432892
Kn_K15 L_L4 L_L7 0.989643141125
Kn_K16 L_L4 L_L8 0.0500605972235
Kn_K17 L_L6 L_L7 0.9769292509562
Kn_K18 L_L6 L_L8 -0.164161647346
Kn_K19 L_L7 L_L8 0.050291565153
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param50_18

    *  Analysis frequencies: 600.0, 660.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param50_19 1 2 3 4 REF
C_C1 1 2 1195.4127102901pf
C_C2 1 4 12.831954802733pf
C_C3 2 REF 8.5458167828052pf
C_C4 2 3 4.2775990383986pf
C_C5 3 REF 0.3312693503039pf
C_C6 4 REF 0.4397716627185pf
R_R1 1 REF -482.1807670717
R_R2 1 2 15.018647588028
R_R3 2 REF 475.69465389207
L_L1 1 5 7.5490998510856nh
R_RL1 5 REF -0.020676226483
L_L2 1 6 0.062049311056nh
R_RL2 6 2 -3.649210165e-3
L_L3 1 7 4.1510385203902nh
R_RL3 7 3 -1.034938016e-3
L_L4 1 8 3.5204571492175nh
R_RL4 8 4 -1.448632204e-3
L_L5 2 9 7.5091304324777nh
R_RL5 9 REF -0.04753442849
L_L6 2 10 4.164913831384nh
R_RL6 10 3 -5.179252701e-4
L_L7 2 11 3.5390562690743nh
R_RL7 11 4 -3.386410851e-4
L_L8 3 12 11.631740007761nh
R_RL8 12 REF -0.042887813224
L_L9 3 13 1.2315738974755nh
R_RL9 13 4 2.8598333816e-5
L_L10 4 14 10.994062017856nh
R_RL10 14 REF -0.044550713298
Kn_K1 L_L1 L_L2 0.0745304681082
Kn_K2 L_L1 L_L5 0.9958828838248
Kn_K3 L_L1 L_L8 0.8019611251645
Kn_K4 L_L1 L_L10 0.8245015173181
Kn_K5 L_L2 L_L3 0.0474608868917
Kn_K6 L_L2 L_L4 0.0464829500724
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.074676017843
Kn_K9 L_L2 L_L7 -0.086050561942
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.8423114090266
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9925399017238
Kn_K15 L_L3 L_L7 0.8338108026507
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.411791402315
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.8352335625701
Kn_K21 L_L4 L_L7 0.9912139800838
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.1443142798698
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8012119354728
Kn_K26 L_L5 L_L10 0.8234699222431
Kn_K27 L_L6 L_L7 0.842923874225
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.410062026098
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.1450658939511
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.2469364788871
Kn_K35 L_L8 L_L10 0.9459434891607
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param50_19

    *  Analysis frequencies: 660.0, 725.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param50_20 1 2 3 4 REF
C_C1 1 REF 13.006634073453pf
C_C2 1 3 6.6805465952565pf
C_C3 2 4 20.001393862059pf
C_C4 3 REF 0.4039427014135pf
C_C5 4 REF 0.2179236001114pf
R_R1 1 REF 364.41006631972
R_R2 1 2 -104.1498848327
R_R3 2 REF -366.1770161511
L_L1 1 5 3.9921858302726nh
R_RL1 5 REF -2.091302546e-3
L_L2 1 6 0.4547484856238nh
R_RL2 6 2 0.0807593419231
L_L3 1 7 2.6705761621483nh
R_RL3 7 3 0.0297040728513
L_L4 1 8 2.1605390556472nh
R_RL4 8 4 0.0442784686458
L_L5 2 9 4.4315203838381nh
R_RL5 9 REF 0.2630411878102
L_L6 2 10 2.5375053843316nh
R_RL6 10 3 0.0121602110557
L_L7 2 11 1.9292686070599nh
R_RL7 11 4 0.0052441737597
L_L8 3 12 6.6708509109979nh
R_RL8 12 REF 0.1483546492856
L_L9 3 13 1.1657578326366nh
R_RL9 13 4 0.0014555261749
L_L10 4 14 6.1711127120863nh
R_RL10 14 REF 0.1855298599043
Kn_K1 L_L1 L_L5 0.9473048861457
Kn_K2 L_L1 L_L8 0.7743806912126
Kn_K3 L_L1 L_L10 0.806162617193
Kn_K4 L_L2 L_L3 0.2667016507607
Kn_K5 L_L2 L_L4 0.3460504476392
Kn_K6 L_L2 L_L5 1.0
Kn_K7 L_L2 L_L6 -0.149727596386
Kn_K8 L_L2 L_L7 -0.119295173413
Kn_K9 L_L2 L_L8 1.0
Kn_K10 L_L2 L_L9 0.0674357565722
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.762961785298
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.91298213604
Kn_K15 L_L3 L_L7 0.6779140154635
Kn_K16 L_L3 L_L8 0.9467981613745
Kn_K17 L_L3 L_L9 -0.474880376667
Kn_K18 L_L3 L_L10 0.9856563992214
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.6362170432873
Kn_K21 L_L4 L_L7 0.890233801808
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.2065873304768
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L6 0.0444591507222
Kn_K26 L_L5 L_L7 0.0324347310213
Kn_K27 L_L5 L_L8 0.7876324119778
Kn_K28 L_L5 L_L9 -0.023867861296
Kn_K29 L_L5 L_L10 0.8292767451129
Kn_K30 L_L6 L_L7 0.7459639150186
Kn_K31 L_L6 L_L8 1.0
Kn_K32 L_L6 L_L9 -0.515720794425
Kn_K33 L_L6 L_L10 1.0
Kn_K34 L_L7 L_L8 1.0
Kn_K35 L_L7 L_L9 0.1858791843565
Kn_K36 L_L7 L_L10 1.0
Kn_K37 L_L8 L_L9 0.2986199498559
Kn_K38 L_L8 L_L10 0.9099119913451
Kn_K39 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param50_20

    *  Analysis frequencies: 725.0, 795.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param50_21 1 2 3 4 REF
C_C1 1 2 280.91058884585pf
C_C2 1 4 3.0439014328692pf
C_C3 2 REF 2.3457886621089pf
C_C4 2 3 1.0410587691691pf
C_C5 3 REF 0.3523037505097pf
C_C6 4 REF 0.3721078316549pf
R_R1 1 2 -38.88585584079
L_L1 1 5 26.893495279732nh
R_RL1 5 REF -0.395865161211
L_L2 1 6 0.1263815762095nh
R_RL2 6 2 0.0111555001679
L_L3 1 7 11.160373099537nh
R_RL3 7 3 0.0101154317159
L_L4 1 8 10.4823514653nh
R_RL4 8 4 0.0104122331972
L_L5 2 9 26.656595106924nh
R_RL5 9 REF -0.514043726885
L_L6 2 10 11.236611210941nh
R_RL6 10 3 1.9028778129e-4
L_L7 2 11 10.566341058578nh
R_RL7 11 4 1.5631086532e-4
L_L8 3 12 37.842668813003nh
R_RL8 12 REF -0.503254260214
L_L9 3 13 1.287130242754nh
R_RL9 13 4 1.655896924e-5
L_L10 4 14 37.154836278802nh
R_RL10 14 REF -0.505577714365
Kn_K1 L_L1 L_L2 0.0985253702002
Kn_K2 L_L1 L_L5 0.9976496996896
Kn_K3 L_L1 L_L8 0.8396998827044
Kn_K4 L_L1 L_L10 0.8472815683338
Kn_K5 L_L2 L_L3 0.0211107228038
Kn_K6 L_L2 L_L4 0.0184154566953
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.085014319885
Kn_K9 L_L2 L_L7 -0.091023185346
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9409901468308
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9943629664451
Kn_K15 L_L3 L_L7 0.9349340395734
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.259248063281
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.9358394807633
Kn_K21 L_L4 L_L7 0.9940036650554
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.0829132876151
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.83849326872
Kn_K26 L_L5 L_L10 0.8459399958194
Kn_K27 L_L6 L_L7 0.9414102828622
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.257347972714
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.0836340480166
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.1414903409744
Kn_K35 L_L8 L_L10 0.9828790306649
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param50_21

    *  Analysis frequencies: 795.0, 875.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param50_22 1 2 3 4 REF
C_C1 1 REF 0.029380758444pf
C_C2 1 2 61.268405860111pf
C_C3 1 4 0.6936187356921pf
C_C4 2 REF 0.8422419956192pf
C_C5 2 3 0.2623692817538pf
C_C6 3 REF 0.3573296341497pf
C_C7 4 REF 0.3554925431507pf
R_R1 1 2 -238.5582931214
L_L1 1 5 0.5235939619192nh
R_RL1 5 2 0.2466585880331
L_L2 1 6 47.516165322151nh
R_RL2 6 3 0.0497156067427
L_L3 1 7 46.721831461032nh
R_RL3 7 4 0.0501050988615
L_L4 2 8 48.053476555227nh
R_RL4 8 3 0.1835858691306
L_L5 2 9 47.265977507114nh
R_RL5 9 4 0.1799632057814
L_L6 3 10 1.3093892847316nh
R_RL6 10 4 1.0e-5
Kn_K1 L_L1 L_L4 -0.105751578579
Kn_K2 L_L1 L_L5 -0.107315853392
Kn_K3 L_L2 L_L3 0.9861405384156
Kn_K4 L_L2 L_L4 0.99453705427
Kn_K5 L_L2 L_L5 0.9805923962729
Kn_K6 L_L2 L_L6 -0.133353219729
Kn_K7 L_L3 L_L4 0.9808286335547
Kn_K8 L_L3 L_L5 0.9944457954056
Kn_K9 L_L3 L_L6 0.0329252930092
Kn_K10 L_L4 L_L5 0.9862968080725
Kn_K11 L_L4 L_L6 -0.132174753657
Kn_K12 L_L5 L_L6 0.0331696174928
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param50_22

    *  Analysis frequencies: 875.0, 960.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param50_23 1 2 3 4 REF
C_C1 1 REF 0.2934077928416pf
C_C2 1 2 23.837490890299pf
C_C3 1 4 0.2936695723133pf
C_C4 2 REF 0.5862065334018pf
C_C5 2 3 0.1279680631748pf
C_C6 3 REF 0.3576540216318pf
C_C7 4 REF 0.3519740013994pf
R_R1 1 2 -687.0046782082
L_L1 1 5 0.8231961790649nh
R_RL1 5 2 0.3013377282796
L_L2 3 6 1.3133444665657nh
R_RL2 6 4 -2.089472628e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param50_23

    *  Analysis frequencies: 960.0, 1055.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param50_24 1 2 3 4 REF
C_C1 1 REF 0.3766321574079pf
C_C2 1 2 11.788933939167pf
C_C3 1 3 0.0459413143421pf
C_C4 1 4 0.1676321107234pf
C_C5 2 REF 0.5214969441311pf
C_C6 2 3 0.0821771095225pf
C_C7 3 REF 0.3564409897351pf
C_C8 4 REF 0.3496321813254pf
L_L1 1 5 1.2218828022128nh
R_RL1 5 2 0.1007258748285
L_L2 3 6 1.3114990281225nh
R_RL2 6 4 -2.520674025e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param50_24

    *  Analysis frequencies: 1055.0, 1160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param50_25 1 2 3 4 REF
C_C1 1 REF 0.4124081682562pf
C_C2 1 2 7.1716651724552pf
C_C3 1 3 0.0690412258585pf
C_C4 1 4 0.1183192850033pf
C_C5 2 REF 0.5056541479498pf
C_C6 2 3 0.0627718213584pf
C_C7 2 4 0.0230411699035pf
C_C8 3 REF 0.3546542353821pf
C_C9 4 REF 0.3472874189974pf
L_L1 1 5 1.7344793107263nh
R_RL1 5 2 1.7261443951e-4
L_L2 3 6 1.3091576047507nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param50_25

    *  Analysis frequencies: 1160.0, 1200.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param50_26 1 2 3 4 REF
C_C1 1 REF 0.4281340637191pf
C_C2 1 2 5.7845004250398pf
C_C3 1 3 0.0790844216629pf
C_C4 1 4 0.1016110080661pf
C_C5 2 REF 0.5023730987801pf
C_C6 2 3 0.0553813717929pf
C_C7 2 4 0.042554033207pf
C_C8 3 REF 0.3534622599776pf
C_C9 4 REF 0.3457841374818pf
L_L1 1 5 1.8673301491905nh
R_RL1 5 2 9.9534432117e-5
L_L2 3 6 1.3081273665985nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param50_26

